US06790860B2
A solution of 14.14 g (25 mmol) of (2S,4R)-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-yl]-methanol in 300 ml CH2Cl2 was treated at 0° C. with 2.14 ml (27.7 mmol) methane sulfonylchloride, 3.02 ml (37.5 mmol) pyridine, 3.05 g (25 mmol) DMAP and stirred at room temperature for 4 h. The reaction mixture was poured into EtOAc/H2O acidified with 1 N HCl. The organic phase was washed with 10% aqueous NaCl, dried over Na2SO4 and evaporated to give 15.98 g (99%) of methanesulfonic acid (2S,4R)-1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl ester, MS: 644 (MH+).

reactant | (2S,4R)-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-yl]-methanol | 25 mmol, 14.14 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C34H31NO3S2
reactant | methane sulfonylchloride | 27.7 mmol, 2.14 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 37.5 mmol, 3.02 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1 N | Cl | ClH
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 25 mmol, 3.05 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc H2O | CCOC(=O)C.O
product | methanesulfonic acid (2S,4R)-1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl ester | 15.98 g, 99% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COS(=O)(=O)C | C35H33NO5S3
